US08431695B2
Preparation of 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-carboxamide
To a suspension of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (80 mg, 0.17 mmol) in dichloromethane (1 mL) was added N,N-dimethylcarbamoyl chloride (18 μL, 0.19 mmol) and triethylamine (73 μL, 0.52 mmol). The reaction was stirred at 40° C. for 17 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 50% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 40 mg (46%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (d, 1 H), 7.87-7.97 (m, 1 H), 7.79 (dd, 1 H), 7.59 (d, 1 H), 7.28-7.39 (m, 5 H), 7.14 (dd, 1 H), 6.58-6.65 (m, 1 H), 5.65 (d, 2 H), 3.63 (s, 2 H), 3.32-3.40 (m, 1 H), 2.85 (s, 2 H), 2.74 (d, 6 H), 1.99 (s, 2 H), 1.66 (s, 2 H); ES-MS m/z 495.20 [M+H]+, HPLC RT (min) 2.69.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.17 mmol, 80 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | N,N-dimethylcarbamoyl chloride | 0.19 mmol, 18 μL | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpiperidine-1-carboxamide | 40 mg, 46% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C28H30N8O
